US08106043B2
4-(2-(1-Methylpyrrolidin-2-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-amine:
A solution of LiAlH4 (4.21 mL, 4.212 mmol, 1.0 M solution in THF) was treated dropwise with 7-amino-4-(2-(1-methylpyrrolidin-2-yl)ethyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (0.29 g, 1.053 mmol) in dry THF (5 mL) at 0° C. The resulting mixture was brought to room temperature and stirred overnight. The reaction was carefully quenched with the sequential addition of water (0.16 mL), 2 N NaOH solution (0.16 mL), and water (0.16 mL). The reaction was filtered after stirring for 30 minutes at room temperature and washed with CH2Cl2 (3×10 mL). The combined CH2Cl2 layers were evaporated, and the crude material was purified by column chromatography (5:95 (2M NH3 in MeOH):CH2Cl2) to obtain the title compound (0.23 g, 84%) as a syrup. 1H NMR (DMSO-d6) δ 1.28-1.45 (m, 2H), 1.56-1.65 (m, 2H), 1.75-2.10 (m, 4H), 2.18 (s, 3H), 2.88-2.95 (m, 1H), 3.03-3.10 (m, 4H), 4.08 (t, 2H, J=4.8 Hz), 4.36 (s, 2H), 6.00 (d, 1H, J=2.4 Hz), 6.06 (dd, 1H, J=2.4, 8.5 Hz), 6.43 (d, 1H, J=8.4 Hz); ESI-MS (m/z, %): 262 (MH+, 100), 163 (33), 112 (42).

reactant | LiAlH4 | 4.212 mmol, 1.0 M, 4.21 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 7-amino-4-(2-(1-methylpyrrolidin-2-yl)ethyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | 1.053 mmol, 0.29 g | NC=1C=CC2=C(OCC(N2CCC2N(CCC2)C)=O)C1 | C15H21N3O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(2-(1-Methylpyrrolidin-2-yl)ethyl)-3,4-dihydro-2H-benzo[b][1,4]oxazin-7-amine | 0.23 g, 84% | CN1C(CCC1)CCN1C2=C(OCC1)C=C(C=C2)N | C15H23N3O
